### PR TITLE
[Merged by Bors] - feat(FieldTheory/IntermediateField/Adjoin): add lemmas

### PR DESCRIPTION
**Pull request by mariainesdff**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/IntermediateField/Adjoin/Basic.lean [hunk 1]
```diff
@@ -771,4 +771,49 @@ theorem cardinalMk_adjoin_le {E : Type u} [Field E] [Algebra F E] (s : Set E) :
...
+variable {K L : Type*} [Field K] [Field L] [Algebra K L] {x y : L}
+
+theorem AdjoinDouble.isAlgebraic (hx : IsAlgebraic K x) (hy : IsAlgebraic K y) :
+    Algebra.IsAlgebraic K K⟮x, y⟯ := by
+  apply IntermediateField.isAlgebraic_adjoin
+  intro z hz
+  simp only [Set.mem_insert_iff, Set.mem_singleton_iff] at hz
+  rcases hz with hz | hz
+  · exact hz ▸ hx.isIntegral
+  · exact hz ▸ hy.isIntegral
```
[the remark this answers is not in the document]
Comment (mariainesdff) [reply Mathlib/FieldTheory/IntermediateField/Adjoin/Basic.lean:785]: This suggestion did not work for me, but I replaced the last two
lines by `simp [hz, hx.isIntegral, hy.isIntegral]`.

[the remark this answers is not in the document]
Comment (tb65536) [reply Mathlib/FieldTheory/IntermediateField/Adjoin/Basic.lean]: Ah, sorry, the entire proof should just be:
```
theorem AdjoinDouble.isAlgebraic (hx : IsAlgebraic K x) (hy : IsAlgebraic K y) :
    Algebra.IsAlgebraic K K⟮x, y⟯ := by
  apply IntermediateField.isAlgebraic_adjoin
  simp [hx.isIntegral, hy.isIntegral]
```

File: Mathlib/FieldTheory/IntermediateField/Adjoin/Basic.lean [hunk 2]
```diff
@@ -771,4 +771,40 @@ theorem cardinalMk_adjoin_le {E : Type u} [Field E] [Algebra F E] (s : Set E) :
     #(adjoin F s) ≤ #F ⊔ #s ⊔ ℵ₀ := by
   simpa using lift_cardinalMk_adjoin_le F s
 
+section AdjoinDouble
+
+variable {K L : Type*} [Field K] [Field L] [Algebra K L] {x y : L}
+
+theorem AdjoinDouble.isAlgebraic (hx : IsAlgebraic K x) (hy : IsAlgebraic K y) :
```
Comment (alreadydone) [inline Mathlib/FieldTheory/IntermediateField/Adjoin/Basic.lean:778]: I'd call this something like `isAlgebraic_adjoin_pair` (cf. [Set.pair_comm](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Set/Insert.html#Set.pair_comm) etc.)

File: Mathlib/FieldTheory/IntermediateField/Adjoin/Basic.lean [hunk 3]
```diff
@@ -771,4 +771,40 @@ theorem cardinalMk_adjoin_le {E : Type u} [Field E] [Algebra F E] (s : Set E) :
...
+    Algebra.IsAlgebraic K K⟮x, y⟯ := by
+  apply IntermediateField.isAlgebraic_adjoin
+  simp [hx.isIntegral, hy.isIntegral]
+
+theorem AdjoinDouble.finiteDimensional (hx : IsIntegral K x) (hy : IsIntegral K y) :
```
Comment (alreadydone) [inline Mathlib/FieldTheory/IntermediateField/Adjoin/Basic.lean:783]: Why use IsIntegral here and IsAlgebraic in the previous lemma? Over a field K they're equivalent.

File: Mathlib/FieldTheory/IsAlgClosed/AlgebraicClosure.lean [hunk 4]
```diff
@@ -198,3 +198,25 @@ instance {L : Type*} [Field k] [Field L] [Algebra k L] [Algebra.IsAlgebraic k L]
   isAlgClosed := inferInstance
 
 end AlgebraicClosure
+
+namespace IntermediateField
+
+variable {K L : Type*} [Field K] [Field L] [Algebra K L] (E : IntermediateField K L)
+
+theorem AdjoinSimple.normal_algebraicClosure {x : L} (hx : IsAlgebraic K x) :
```
Comment (alreadydone) [inline Mathlib/FieldTheory/IsAlgClosed/AlgebraicClosure.lean:206]: I've always found the name AdjoinSimple (or adjoin_simple) weird and am tempted to rename it AdjoinSingleton.

And I think this and the next lemma should be proven by combining [IsAlgClosure.normal](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/IsAlgClosed/Basic.html#IsAlgClosure.normal) and `Algebra.IsAlgebraic.trans`.

File: Mathlib/FieldTheory/IntermediateField/Adjoin/Basic.lean (hunk 3 above)
Comment (mariainesdff) [reply Mathlib/FieldTheory/IntermediateField/Adjoin/Basic.lean:783]: I switched to `IsIntegral` above.

Comment (tb65536) [reply Mathlib/FieldTheory/IntermediateField/Adjoin/Basic.lean:783]: Personally I might actually be inclined to do it the other way since algebraic is a "weaker" hypothesis than integral?

Comment (tb65536) [reply Mathlib/FieldTheory/IntermediateField/Adjoin/Basic.lean:783]: Also, this lemma could be called `finiteDimensional_adjoin_pair`.

File: Mathlib/FieldTheory/IntermediateField/Adjoin/Basic.lean [hunk 5]
```diff
@@ -771,4 +771,39 @@ theorem cardinalMk_adjoin_le {E : Type u} [Field E] [Algebra F E] (s : Set E) :
...
+  have := adjoin.finiteDimensional hx
+  have := adjoin.finiteDimensional hy
+  rw [← Set.singleton_union, adjoin_union]
+  exact finiteDimensional_sup K⟮x⟯ K⟮y⟯
+
+variable (K x y)
+
+theorem mem_adjoinPair_left : x ∈ K⟮x, y⟯ := subset_adjoin K {x, y} (Set.mem_insert x {y})
+
+theorem mem_adjoinPair_right : y ∈ K⟮x, y⟯ :=
```
Comment (tb65536) [inline Mathlib/FieldTheory/IntermediateField/Adjoin/Basic.lean:794]: Maybe rename for consistency with previous lemmas?
```suggestion
theorem mem_adjoin_pair_left : x ∈ K⟮x, y⟯ := subset_adjoin K {x, y} (Set.mem_insert x {y})

theorem mem_adjoin_pair_right : y ∈ K⟮x, y⟯ :=
```

File: Mathlib/FieldTheory/IsAlgClosed/AlgebraicClosure.lean [hunk 6]
```diff
@@ -198,3 +198,25 @@ instance {L : Type*} [Field k] [Field L] [Algebra k L] [Algebra.IsAlgebraic k L]
...
 
 end AlgebraicClosure
+
+namespace IntermediateField
+
+variable {K L : Type*} [Field K] [Field L] [Algebra K L] (E : IntermediateField K L)
+
+theorem AdjoinSimple.normal_algebraicClosure {x : L} (hx : IsIntegral K x) :
+    Normal K (AlgebraicClosure K⟮x⟯) :=
+  have : IsAlgClosure K (AlgebraicClosure ↥K⟮x⟯) := by
```
Comment (tb65536) [inline Mathlib/FieldTheory/IsAlgClosed/AlgebraicClosure.lean:208]: Maybe this should be a separate lemma?

File: Mathlib/FieldTheory/IsAlgClosed/AlgebraicClosure.lean [hunk 7]
```diff
@@ -201,3 +201,28 @@ instance {L : Type*} [Field k] [Field L] [Algebra k L] [Algebra.IsAlgebraic k L]
...
+
+namespace IntermediateField
+
+variable {K L : Type*} [Field K] [Field L] [Algebra K L] (E : IntermediateField K L)
+
+theorem AdjoinSimple.is_algebraicClosure {x : L} (hx : IsIntegral K x) :
+    IsAlgClosure K (AlgebraicClosure ↥K⟮x⟯) :=
+  have : Algebra.IsAlgebraic K K⟮x⟯ := (isAlgebraic_adjoin_simple hx)
+  ⟨AlgebraicClosure.isAlgClosed ↥K⟮x⟯,
+    Algebra.IsAlgebraic.trans K K⟮x⟯ (AlgebraicClosure ↥K⟮x⟯)⟩
```
Comment (erdOne) [inline Mathlib/FieldTheory/IsAlgClosed/AlgebraicClosure.lean:213]: I think this should work for every algebraic extension of `K`, and could be an instance.

File: Mathlib/FieldTheory/IsAlgClosed/AlgebraicClosure.lean (hunk 6 above)
Comment (mariainesdff) [reply Mathlib/FieldTheory/IsAlgClosed/AlgebraicClosure.lean]: I forgot to reply to this comment. I had added `AdjoinSimple.is_algebraicClosure` for this, which I have now generalized and made an instance following @erdOne's suggestion.

File: Mathlib/FieldTheory/IsAlgClosed/AlgebraicClosure.lean (hunk 7 above)
Comment (mariainesdff) [reply Mathlib/FieldTheory/IsAlgClosed/AlgebraicClosure.lean:213]: Good point, thanks!

File: Mathlib/FieldTheory/IsAlgClosed/AlgebraicClosure.lean [hunk 8]
```diff
@@ -201,3 +201,25 @@ instance {L : Type*} [Field k] [Field L] [Algebra k L] [Algebra.IsAlgebraic k L]
...
+namespace IntermediateField
+
+variable {K L : Type*} [Field K] [Field L] [Algebra K L] (E : IntermediateField K L)
+
+instance [Algebra.IsAlgebraic K E] : IsAlgClosure K (AlgebraicClosure E) :=
+  ⟨AlgebraicClosure.isAlgClosed E, Algebra.IsAlgebraic.trans K E (AlgebraicClosure E)⟩
+
+theorem AdjoinSimple.normal_algebraicClosure {x : L} (hx : IsIntegral K x) :
+    Normal K (AlgebraicClosure K⟮x⟯) :=
+  have : Algebra.IsAlgebraic K K⟮x⟯ := (isAlgebraic_adjoin_simple hx)
```
Comment (tb65536) [inline Mathlib/FieldTheory/IsAlgClosed/AlgebraicClosure.lean:214]:
```suggestion
  have : Algebra.IsAlgebraic K K⟮x⟯ := isAlgebraic_adjoin_simple hx
```

File: Mathlib/FieldTheory/IsAlgClosed/AlgebraicClosure.lean [hunk 9]
```diff
@@ -201,3 +201,25 @@ instance {L : Type*} [Field k] [Field L] [Algebra k L] [Algebra.IsAlgebraic k L]
...
+  IsAlgClosure.normal _ _
+
+theorem AdjoinDouble.normal_algebraicClosure {x y : L} (hx : IsIntegral K x)
+    (hy : IsIntegral K y) : Normal K (AlgebraicClosure K⟮x, y⟯) :=
+  have : IsAlgClosure K (AlgebraicClosure ↥K⟮x, y⟯) := by
+    have : Algebra.IsAlgebraic K K⟮x, y⟯ := (isAlgebraic_adjoin_pair hx hy)
+    exact ⟨AlgebraicClosure.isAlgClosed ↥K⟮x, y⟯,
+      Algebra.IsAlgebraic.trans K K⟮x, y⟯ (AlgebraicClosure ↥K⟮x, y⟯)⟩
```
Comment (tb65536) [inline Mathlib/FieldTheory/IsAlgClosed/AlgebraicClosure.lean:222]:
```suggestion
  have : Algebra.IsAlgebraic K K⟮x, y⟯ := isAlgebraic_adjoin_pair hx hy
```

**Review by tb65536 — APPROVED** [review]
maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
